US05179117
Preparation of N6-(1-adamantylcarbonyl)-N2-[4-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]-1-oxobutyl]-L-lysine, methyl ester
A solution of 1-adamantanecarbonyl chloride (0.159 g, 0.000804 mol) in methylene chloride (2 ml) was added to a mixture of N2-[4-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]-1-oxobutyl]-L-lysine, methyl ester hydrobromide (0.5 g, 0.000804 mol), triethyl amine (0.24 g, 0.0024 mol) and methylene chloride (20 ml) at ambient temperature under a nitrogen atmosphere. The reaction mixture was stirred for 2 hours, poured into water and extracted with ethyl acetate. The combined organic layer was washed with saturated aqueous ammonium chloride, water, brine, dried over magnesium sulfate and concentrated to give a foam. The foam was purified by flash chromatography on silica gel (50 ml) eluting ethyl acetate to give the title compound (0.4 g, 0.00057 mol, 71% yield) as a white foam, mp 98°-104°. 1H NMR (DMSO-d6) δ8.22(d, 1H), 7.35-7.25(m, 5H), 6.87(d, 4H), 4.2-4.12(m, 1H), 3.75(s, 6H), 3.57(s, 3H), 3.1-2.93(m, 4H), 2.27(t, 2H), 1.97-1.5(m, 19H), 1.37-1.17(m, 4H).

reactant | 1-adamantanecarbonyl chloride | 0.000804 mol, 0.159 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | N2-[4-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]-1-oxobutyl]-L-lysine, methyl ester hydrobromide | 0.000804 mol, 0.5 g | Br.COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SCCCC(=O)N[C@@H](CCCCN)C(=O)OC
reactant | triethyl amine | 0.0024 mol, 0.24 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N6-(1-adamantylcarbonyl)-N2-[4-[4,5-bis(4-methoxyphenyl)-1H-imidazol-2-ylthio]-1-oxobutyl]-L-lysine, methyl ester | 0.00057 mol, 0.4 g, 71% yield | C12(CC3CC(CC(C1)C3)C2)C(=O)NCCCC[C@H](NC(CCCSC=2NC(=C(N2)C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)=O)C(=O)OC | C39H50N4O6S
